US09233098B2
2. Preparation of 2-[1-[4-(2,3-dihydrobenzo[b][1,4]dioxin-6-carboxamido)benzyl]-1H-indazol-3-yl]acetic acid
Ethyl 2-[1-[4-(2,3-dihydrobenzo[b][1,4]dioxin-6-carboxamido)benzyl]-1H-indazol-3-yl]acetate (260 mg, 0.551 mmol) was dissolved in tetrahydrofuran (20 mL), and in an ice bath, 10 mL aqueous solution dissolving lithium hydroxide monohydrate (70 mg, 1.67 mmol) was added. It was reacted at room temperature for 3 h, and the reaction was monitored to be complete by TLC. Water was added into the system, and adjusted to pH≈3-4 with diluted hydrochloric acid. A solid precipitated, which was filtered and dried to obtain a white solid 241 mg, at a yield of 98.5%.

reactant | Ethyl 2-[1-[4-(2,3-dihydrobenzo[b][1,4]dioxin-6-carboxamido)benzyl]-1H-indazol-3-yl]acetate | 0.551 mmol, 260 mg | O1C2=C(OCC1)C=C(C=C2)C(=O)NC2=CC=C(CN1N=C(C3=CC=CC=C13)CC(=O)OCC)C=C2 | C27H25N3O5
reactant | lithium hydroxide monohydrate | 1.67 mmol, 70 mg | O.[OH-].[Li+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-[1-[4-(2,3-dihydrobenzo[b][1,4]dioxin-6-carboxamido)benzyl]-1H-indazol-3-yl]acetic acid | 241 mg, yield of 98.5% | O1C2=C(OCC1)C=C(C=C2)C(=O)NC2=CC=C(CN1N=C(C3=CC=CC=C13)CC(=O)O)C=C2 | C25H21N3O5
